US04544661
To a stirred slurry of 30 g (0.1237 mole) 3,5,6-trichloro-2-pyridyloxyacetic acid in 500 ml methylene chloride, 1 ml N,N-dimethylformamide was added. Then 16.2 g [10 m' (0.136 mole)] thionyl chloride was added dropwise. The mixture was refluxed 31/2 hours. The solvent was stripped in vacuo to give the 3,5,6-trichloro-2-pyridyloxyacetyl chloride as an oil, which was used in step (b) without further isolation.

reactant | 3,5,6-trichloro-2-pyridyloxyacetic acid | 0.1237 mole, 30 g | ClC=1C(=NC(=C(C1)Cl)Cl)OCC(=O)O | C7H4Cl3NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3,5,6-trichloro-2-pyridyloxyacetyl chloride | ClC=1C(=NC(=C(C1)Cl)Cl)OCC(=O)Cl | C7H3Cl4NO2
